US06495581B1
Lithium hydroxide monohydrate (70.7 mg) was added to a solution of methyl E-4-(4-benzyloxybenzyloxyimino)-4-phenylbutyrate (340 mg) in tetrahydrofuran (6 ml)-water (4 ml)-methanol (4 ml) and stirred at room temperature for 2 hours. 1N hydrochloric acid (1.8 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain E-4-(4-benzyloxybenzyloxyimino)-4-phenylbutyric acid (238 mg, yield 72%) as colorless crystals. m.p. 86-87° C.

reactant | Lithium hydroxide monohydrate | 70.7 mg | O.[OH-].[Li+]
reactant | methyl E-4-(4-benzyloxybenzyloxyimino)-4-phenylbutyrate | 340 mg | C(C1=CC=CC=C1)OC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C25H25NO4
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 1.8 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | E-4-(4-benzyloxybenzyloxyimino)-4-phenylbutyric acid | 238 mg, yield 72% | C(C1=CC=CC=C1)OC1=CC=C(CO\N=C(/CCC(=O)O)\C2=CC=CC=C2)C=C1 | C24H23NO4
